US09212147B2
Toluene (10 ml) was added to 3-chloro[1,4]benzodioxino[2,3-c]pyridazine (600 mg), and (E)-2-phenylvinylboronic acid (480 mg), tetrakis(triphenylphosphine)palladium (315 mg) and 2M aqueous sodium carbonate solution (1.6 mL) were added at room temperature. The reaction mixture was stirred at 120° C. for 14 hr. Water was added and the mixture was extracted with chloroform. The organic layer was washed with saturated aqueous ammonium chloride solution and saturated brine, dried over anhydrous magnesium sulfate and the solvent was concentrated under reduced pressure. The obtained residue was washed with a mixed solvent of hexane and ethyl acetate and filtered. The obtained solid was dried under reduced pressure to give 3-[(E)-2-phenylvinyl][1,4]benzodioxino[2,3-c]pyridazine (386 mg).

reactant | Toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-chloro[1,4]benzodioxino[2,3-c]pyridazine | 600 mg | ClC1=CC2=C(N=N1)OC1=C(O2)C=CC=C1 | C10H5ClN2O2
reactant | (E)-2-phenylvinylboronic acid | 480 mg | C1(=CC=CC=C1)/C=C/B(O)O | C8H9BO2
reactant | sodium carbonate | 2M, 1.6 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 315 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | 3-[(E)-2-phenylvinyl][1,4]benzodioxino[2,3-c]pyridazine | 386 mg | C1(=CC=CC=C1)/C=C/C1=CC2=C(N=N1)OC1=C(O2)C=CC=C1 | C18H12N2O2
